US07476742B2
Preparation of ethyl ((1S)-5-{2-[5-methyl-2-(3-vinylphenyl)-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate
To a mixture of vinyltributyltin (Aldrich, 65.0 mg, 0.21 mmol), ethyl ((1S)-5-{2-[2-(3-bromophenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate (50 mg, 0.10 mmol), and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (4.2 mg, 0.005 mmol) was added toluene (2 mL). The resulting solution was degassed with argon for 30 minutes, and then stirred at 110° C. for 16 h. The reaction mixture was cooled to rt and diluted with 10 mL ethyl acetate. The organic layer was filtered through a silica plug and the filtrate concentrated under reduced pressure. The crude was then redissolved in methanol and filtered through a silica-octyl plug before preparative HPLC purification using 30 to 100% acetonitrile in water (0.1% TFA) gradient to afford the desired product. 1H NMR (CD2Cl2) δ 8.03 (s, 1H), 7.86 (d, 1H), 7.39-7.51 (m, 2H), 7.04 (d, 1H), 6.68-6.84 (m, 3H), 5.88 ( (d, 1H), 5.31-5.35 (m, 1H), 4.10-4.23 (m, 4H), 3.48 (qr, 1H), 2.97 (t, 2H), 2.64-2.89 (m, 3H), 2.29-2.42 (m, 5H), 1.69-1.76 (m, 1H), 1.26 (t, 3H).

reactant | vinyltributyltin | 0.21 mmol, 65.0 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | ethyl ((1S)-5-{2-[2-(3-bromophenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate | 0.10 mmol, 50 mg | BrC=1C=C(C=CC1)C=1OC(=C(N1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC)C | C25H26BrNO4
reactant | dichloromethane | 0.005 mmol, 4.2 mg | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl ((1S)-5-{2-[5-methyl-2-(3-vinylphenyl)-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate | CC1=C(N=C(O1)C1=CC(=CC=C1)C=C)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC | C27H29NO4
